US06787541B1
N,N′-Bis(2-(4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidin-2-yl)aminoethyl)urea (Example 170)
A solution of 2-(2-aminoethylamino)thieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone (0.10 g, 0.33 mmol) in anhydrous DMF (4 mL) under argon was treated with 1,1-carbonyldiimidazole (0.05 g, 0.33 mmol), stirred for 2 h, treated with 2-(2-aminoethylamino)thieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone (0.10 g, 0.33 mmol), stirred at room temperature for 4 h and then at 60° C. for 16 h, cooled, poured into water (25 mL) and the resulting orange suspension filtered and dried in vacuo to give the title compound (0.13 g, 31%) as an orange solid.

reactant | 2-(2-aminoethylamino)thieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone | 0.33 mmol, 0.10 g | NCCNC=1N=C(C2=C(N1)C=CS2)C(=O)C=2SC=CC2 | C13H12N4OS2
reactant | 2-(2-aminoethylamino)thieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone | 0.33 mmol, 0.10 g | NCCNC=1N=C(C2=C(N1)C=CS2)C(=O)C=2SC=CC2 | C13H12N4OS2
reactant | water | 25 mL | O | H2O
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N,N′-Bis(2-(4-(2-thienylcarbonyl)thieno[3,2-d]pyrimidin-2-yl)aminoethyl)urea | 0.13 g, 31% | S1C(=CC=C1)C(=O)C=1C2=C(N=C(N1)NCCNC(=O)NCCNC=1N=C(C3=C(N1)C=CS3)C(=O)C=3SC=CC3)C=CS2 | C27H22N8O3S4
